US05175157
2-[3-(N-(3-(Pyrid-4-yl)-propyl)-piperidin-3-yl)-propyl)-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-dihydrate
Prepared from 2-[3-(pyrid-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 4-(3-chloropropyl)-pyridine analogously to Example 1.

reactant | 2-[3-(pyrid-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1=CC(=CC=C1)CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C19H22N2O3
reactant | 4-(3-chloropropyl)-pyridine | ClCCCC1=CC=NC=C1 | C8H10ClN
product | 2-[3-(N-(3-(Pyrid-4-yl)-propyl)-piperidin-3-yl)-propyl)-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-dihydrate | O.O.Cl.Cl.N1=CC=C(C=C1)CCCN1CC(CCC1)CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C27H37N3O3.2ClH.2H2O/c1-32-25-18-23-11-17-30(27(31)24(23)19-26(25)33-2)16-5-8-22-7-4-15-29(20-22)14-3-6-21-9-12-28-13-10-21;;;;/h9-10,12-13,18-19,22H,3-8,11,14-17,20H2,1-2H3;2*1H;2*1H2
